US04028084
(b) 1-(2'-chlorobenzyl)-3-cyano-4,6-dimethylpyrid-2-one
A solution of N-(2'-chlorobenzyl)-2-cyanoacetamide 179 g. (0.86 mole) and 2,4-pentanedione 86 g. (0.86 mole) in 500 ml. of 95% ethanol containing 10 ml. of piperidine is refluxed for 24 hours, after cooling the white crystalline product is isolated by vacuum filtration washed with ether and dried in vacuo to give 237.3 g. (87% yield) mp>250° C.;ν2210 (CN) and 1650 cm.-1 (C=O).

reactant | N-(2'-chlorobenzyl)-2-cyanoacetamide | 179 g | ClC1=C(CNC(CC#N)=O)C=CC=C1 | C10H9ClN2O
reactant | 2,4-pentanedione | 86 g | CC(CC(C)=O)=O | C5H8O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(2'-chlorobenzyl)-3-cyano-4,6-dimethylpyrid-2-one | 87% yield | ClC1=C(CN2C(C(=C(C=C2C)C)C#N)=O)C=CC=C1 | C15H13ClN2O
